US08563575B2
72b) 3-(2,3-dihydro-1H-indol-5-yl)-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a stirred mixture of tert-butyl 5-[1-(1-methylethyl)-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl]-2,3-dihydro-1H-indole-1-carboxylate in AcOEt/EtOH (1/1, 10 mL) was added 4N HCl in AcOEt (4 mL). The mixture was stirred at 80° C. for 2 h, evaporated, treated with saturated NaHCO3, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was suspended in IPE and the suspension was collected by filtration to give the title compound as white crystals (313 mg).

reactant | tert-butyl 5-[1-(1-methylethyl)-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl]-2,3-dihydro-1H-indole-1-carboxylate | CC(C)N1C(N(C2=NC=CC=C21)C=2C=C1CCN(C1=CC2)C(=O)OC(C)(C)C)=O | C22H26N4O3
reactant | HCl | 4N | Cl | ClH
solvent | AcOEt THF | 10 mL | CCOC(=O)C.C1CCOC1
solvent | AcOEt | 4 mL | CCOC(=O)C | C4H8O2
product | 3-(2,3-dihydro-1H-indol-5-yl)-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 313 mg | N1CCC2=CC(=CC=C12)N1C(N(C=2C1=NC=CC2)C(C)C)=O | C17H18N4O
